US05068300
274.4 g of 4-(trimethylsilylethinyl)-benzoic acid tert.-butyl ester and 12.5 g of anhydrous potassium carbonate in 1.5 l of absolute methanol are stirred together for 3 hours under nitrogen. The reaction mixture is then concentrated by evaporation and worked up with CH2Cl2 /H2O to yield 194 g of 4-ethinyl-benzoic acid tert.-butyl ester.

reactant | 4-(trimethylsilylethinyl)-benzoic acid tert.-butyl ester | 274.4 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C16H22O2Si
reactant | potassium carbonate | 12.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1.5 l | CO | CH4O
product | 4-ethinyl-benzoic acid tert.-butyl ester | 194 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C#C)=O | C13H14O2
